### PR TITLE
feat: injectivity of `InfinitePlace.embedding`

### PR DESCRIPTION
**Pull request by smmercuri**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/InfinitePlace/Basic.lean [hunk 1]
```diff
@@ -93,6 +93,21 @@ theorem norm_embedding_eq (w : InfinitePlace K) (x : K) :
...
+
+variable (K) in
+theorem conjugate_embedding_injective :
+     (fun (v : InfinitePlace K) => ComplexEmbedding.conjugate v.embedding).Injective :=
+   star_injective.comp <| embedding_injective K
+
+variable (K) in
+theorem eq_of_embedding_eq_conjugate {v₁ v₂ : InfinitePlace K}
+     (h : v₁.embedding = ComplexEmbedding.conjugate v₂.embedding) : v₁ = v₂ := by
+   rw [← mk_embedding v₁, h, mk_conjugate_eq, mk_embedding]
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/NumberField/InfinitePlace/Basic.lean:109]: Please follow mathlib indentation style - four spaces for the signature and two for the proof

**Review by riccardobrasca — COMMENTED** [review]
Can you add the `inj` variant? See [here](https://leanprover-community.github.io/contribute/naming.html#injectivity)

**Comment by smmercuri** [comment]
> Can you add the `inj` variant? See [here](https://leanprover-community.github.io/contribute/naming.html#injectivity)

Sure, added!

File: Mathlib/NumberTheory/NumberField/InfinitePlace/Basic.lean [hunk 2]
```diff
@@ -93,6 +93,25 @@ theorem norm_embedding_eq (w : InfinitePlace K) (x : K) :
   nth_rewrite 2 [← mk_embedding w]
   rfl
 
+variable (K) in
+theorem embedding_injective : (embedding (K := K)).Injective := by
+  intro v₁ v₂ h
+  rw [← mk_embedding v₁, h, mk_embedding]
```
Comment (xroblot) [inline Mathlib/NumberTheory/NumberField/InfinitePlace/Basic.lean:99]:
```suggestion
theorem embedding_injective : (embedding (K := K)).Injective :=
  fun _ _ h ↦ by simpa using congr_arg mk h
```

File: Mathlib/NumberTheory/NumberField/InfinitePlace/Basic.lean [hunk 3]
```diff
@@ -93,6 +93,25 @@ theorem norm_embedding_eq (w : InfinitePlace K) (x : K) :
...
+
+@[simp]
+theorem embedding_inj {v₁ v₂ : InfinitePlace K} : v₁.embedding = v₂.embedding ↔ v₁ = v₂ :=
+  (embedding_injective _).eq_iff
+
+variable (K) in
+theorem conjugate_embedding_injective :
+    (fun (v : InfinitePlace K) => ComplexEmbedding.conjugate v.embedding).Injective :=
```
Comment (xroblot) [inline Mathlib/NumberTheory/NumberField/InfinitePlace/Basic.lean:107]:
```suggestion
    (fun (v : InfinitePlace K) ↦ ComplexEmbedding.conjugate v.embedding).Injective :=
```

**Review by xroblot — CHANGES_REQUESTED** [review]

**Comment by riccardobrasca** [comment]
There two unaddressed comments, but otherwise LGTM, thanks!

bors d+

**Comment by smmercuri** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/27975
